US08383637B2
N-[3-(4-Amino-3-propylaminomethyl-phenylsulfanyl)-phenyl]-benzenesulfonamide
A mixture of N-[3-(4-nitro-3-propylaminomethyl-phenylsulfanyl)-phenyl]-benzenesulfonamide (0.0016 mol) in methanol (50 mL) was hydrogenated with 10% Pd/C (0.1 g) as a catalyst. After uptake of H2 gas (3 equiv.), the catalyst was filtered off and the filtrate was evaporated to yield the title compound as a residue. (The product was used in subsequent steps without further purification.)

reactant | N-[3-(4-nitro-3-propylaminomethyl-phenylsulfanyl)-phenyl]-benzenesulfonamide | 0.0016 mol | [N+](=O)([O-])C1=C(C=C(C=C1)SC=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1)CNCCC | C22H23N3O4S2
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | N-[3-(4-Amino-3-propylaminomethyl-phenylsulfanyl)-phenyl]-benzenesulfonamide | NC1=C(C=C(C=C1)SC=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1)CNCCC | C22H25N3O2S2
